US05536718
N-[5-(4H-Pyrazolo[5,1-c][1,4]benzodiazepin-5-(10H) -ylcarbonyl)-2-pyridinyl]-5-fluoro-2-methylbenzamide
To a chilled (0° C.) solution of 0.37 g of 5,10-dihydro-4H-pyrazolo[5, 1-c][1,4]benzodiazepine and 836 microliters of triethylamine in 5 ml of dichloromethane is added 0.761 g of 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride. The mixture is stirred at room temperature under argon for 5 hours. An additional 420 microliners of triethylamine and 0.38 g of 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride is added and the mixture stirred 16 hours. The mixture is diluted with 60 ml of dichloromethane and washed with 25 ml each of H2O, 1M NaHCO3, brine and dried (Na2SO4). The solution is filtered (twice) through a thin pad of hydrous magnesium silicate and the pad washed with dichloromethane. The filtrate is concentrated to give a yellow glass (0.68 g) which is crystallized from ethyl acetate to give 0.38 g of white crystals, m.p. 250° -260° C.; mass spectrum (FABL) 442.4 (M+H).

reactant | 5,10-dihydro-4H-pyrazolo[5, 1-c][1,4]benzodiazepine | 0.37 g | N1=CC=C2CNC3=C(CN21)C=CC=C3 | C11H11N3
reactant | triethylamine | 836 microliters | C(C)N(CC)CC | C6H15N
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | 0.761 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | 0.38 g | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | N-[5-(4H-Pyrazolo[5,1-c][1,4]benzodiazepin-5-(10H) -ylcarbonyl)-2-pyridinyl]-5-fluoro-2-methylbenzamide | 0.68 g | N1=CC=C2CN(C3=C(CN21)C=CC=C3)C(=O)C=3C=CC(=NC3)NC(C3=C(C=CC(=C3)F)C)=O | C25H20FN5O2
